US03997529
Preparation of butyl-3-methyl-6-ethoxy-3,6-dihydro-2H-pyran-2-carboxylate
Following the procedure of Example 12, a solution of 26.7 g. (0.226 mol) of 1-ethoxy-1,3-pentadiene (purity, 95%), 32.5 g. (0.25 mol) of butyl glyoxylate and 0.250 g. of hydroquinone in 250 ml. of methylene chloride was refluxed for 48 hours to give 28.0 g. of a mixture of 1-ethoxy-1,3-pentadiene and butyl glyoxylate and 20.32 g. of distilled 2H-pyran butyl ester (b1.0 = 100°-110° ) as an oil. Yield based on 1-ethoxy-1,3-pentadiene, 34%.

reactant | 1-ethoxy-1,3-pentadiene | 0.226 mol | C(C)OC=CC=CC | C7H12O
reactant | butyl glyoxylate | 0.25 mol | C(C=O)(=O)OCCCC | C6H10O3
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | butyl-3-methyl-6-ethoxy-3,6-dihydro-2H-pyran-2-carboxylate | C(CCC)OC(=O)C1OC(C=CC1C)OCC | C13H22O4
